* Extracted by KLayout with GF180MCU LVS runset on : 07/05/2026 07:52

.SUBCKT ROW VDD SW_REC_pre SW_REC SW_RECb E REC RSTn EN CLK MODE SW_IPGb GND
+ EN_CFG EN_CFGb IPG MODEb SW_IPG_pre SW_IPG
M$1 \$8 SW_REC_pre VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$2 VDD SW_IPGb \$8 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$3 SW_REC \$8 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.635P PS=2.47U
+ PD=3.27U
M$4 SW_RECb SW_REC VDD VDD pfet_03v3 L=0.28U W=1U AS=0.55P AD=0.65P PS=3.1U
+ PD=3.3U
M$5 REC SW_RECb E VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$6 \$3 \$13 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.76P AD=0.65P PS=3.52U PD=3.3U
M$7 VDD \$3 \$4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$8 \$4 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$9 \$13 \$2 \$4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.59P PS=3.3U PD=3.18U
M$10 \$5 EN \$13 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.605P PS=3.26U PD=3.21U
M$11 VDD \$15 \$5 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.54P PS=3.26U PD=3.08U
M$12 VDD \$2 \$15 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.64P PS=3.26U PD=3.28U
M$13 VDD CLK \$2 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$14 \$6 MODE VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U PD=1.84U
M$15 VDD EN_CFG \$6 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$16 SW_REC_pre \$6 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.64P PS=2.47U
+ PD=3.28U
M$17 \$55 \$53 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$18 \$85 \$55 \$53 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$19 VDD \$15 \$85 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$20 EN_CFG \$55 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U
+ PD=3.3U
M$21 \$58 \$55 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$22 EN_CFGb \$58 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U
+ PD=3.3U
M$23 \$60 MODEb VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$24 VDD EN_CFG \$60 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$25 SW_IPG_pre \$60 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.63P PS=2.47U
+ PD=3.26U
M$26 \$53 \$2 \$3 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$27 \$55 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$28 \$61 SW_IPG_pre VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$29 VDD SW_RECb \$61 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$30 SW_IPG \$61 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.63P PS=2.47U
+ PD=3.26U
M$31 SW_IPGb SW_IPG VDD VDD pfet_03v3 L=0.28U W=1U AS=0.56P AD=0.65P PS=3.12U
+ PD=3.3U
M$32 IPG SW_IPGb E VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$33 SW_REC \$8 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.315P PS=1.97U
+ PD=2.26U
M$34 SW_RECb SW_REC GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2825P AD=0.315P
+ PS=2.13U PD=2.26U
M$35 SW_REC_pre \$6 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.3125P
+ PS=1.97U PD=2.25U
M$36 \$52 SW_REC_pre GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$37 \$8 SW_IPGb \$52 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$38 REC SW_REC E GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.63P PS=3.26U PD=3.26U
M$39 \$3 \$13 GND GND nfet_03v3 L=0.28U W=1U AS=0.76P AD=0.61P PS=3.52U PD=3.22U
M$40 \$33 \$3 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$41 \$4 RSTn \$33 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$42 \$13 \$15 \$4 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$43 \$34 EN \$13 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$44 GND \$2 \$34 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.575P PS=3.22U
+ PD=3.15U
M$45 GND \$2 \$15 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$46 GND CLK \$2 GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.67P PS=3.26U PD=3.34U
M$47 \$46 MODE GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$48 \$6 EN_CFG \$46 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$49 \$53 \$15 \$3 GND nfet_03v3 L=0.28U W=1U AS=0.715P AD=0.61P PS=3.43U
+ PD=3.22U
M$50 \$54 RSTn GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$51 \$55 \$53 \$54 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$52 \$56 \$55 \$53 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$53 GND \$2 \$56 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$54 EN_CFG \$55 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$55 \$58 \$55 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$56 EN_CFGb \$58 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$57 \$80 MODEb GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$58 \$60 EN_CFG \$80 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$59 SW_IPG_pre \$60 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.31P
+ PS=1.97U PD=2.24U
M$60 \$79 SW_IPG_pre GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$61 \$61 SW_RECb \$79 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$62 SW_IPG \$61 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.3275P
+ PS=1.97U PD=2.31U
M$63 SW_IPGb SW_IPG GND GND nfet_03v3 L=0.28U W=0.5U AS=0.285P AD=0.315P
+ PS=2.14U PD=2.26U
M$64 IPG SW_IPG E GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.63P PS=3.26U PD=3.26U
.ENDS ROW
